US07612068B2
3-(2-Iodo-phenyl)-propionic acid
Concentrated HCl (2.3 mL) and water (0.3 mL) was added to 2-(2-iodo-benzyl)-malonic acid diethyl ester (1.4 g, 3.6 mmol) and the mixture was refluxed overnight. Starting material could still be seen on TLC. More concentrated HCl (2 mL) was added and the mixture was refluxed overnight. Water (20 mL) and ether (50 mL) was added to the mixture. The two phases was separated. The organic phase was extracted with an ammonium hydroxide solution (5N, 30 mL). The basic water phase was added slowly to ice-cold conc. HCl. The white precipitate was filtered and washed with ice-cold water and the solvent was removed in vacuo. Yield: 0.32 g, 32%.

reactant | HCl | 2.3 mL | Cl | ClH
reactant | water | 0.3 mL | O | H2O
reactant | 2-(2-iodo-benzyl)-malonic acid diethyl ester | 3.6 mmol, 1.4 g | C(C)OC(C(C(=O)OCC)CC1=C(C=CC=C1)I)=O | C14H17IO4
reactant | HCl | 2 mL | Cl | ClH
reactant | Water | 20 mL | O | H2O
solvent | ether | 50 mL | CCOCC | C4H10O
product | 3-(2-Iodo-phenyl)-propionic acid | IC1=C(C=CC=C1)CCC(=O)O | C9H9IO2
